US04409214
A mixture of benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (6.0 g), anisole (10 ml) and trifluoroacetic acid (60 ml) was stirred at ambient temperature for an hour. The reaction mixture was poured into diisopropyl ether (600 ml) with stirring, and the precipitated substance was collected by filtration, washed with diisopropyl ether and then dissolved in water (100 ml), followed by adjusting to pH 7.5 with 5% aqueous sodium bicarbonate and washing with ethyl acetate (50 ml). The resultant aqueous solution was adjusted to pH 2.5 with conc. hydrochloric acid, and extracted with ethyl acetate (200 ml) and tetrahydrofuran (200 ml). The remaining aqueous solution was further adjusted to pH 1.5 with conc. hydrochloride acid and extracted with tetrahydrofuran (100 ml). The combined extracts were washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave a residue, which was washed with acetone and diisopropyl ether to obtain 7-[2-(6-aminopyridin-2-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (2.4 g), mp 173°-178° C. (dec.).

reactant | benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 6.0 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C35H35N5O7S
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | diisopropyl ether | 600 ml | C(C)(C)OC(C)C | C6H14O
product | 7-[2-(6-aminopyridin-2-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.4 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C18H17N5O7S
